US06703387B2
A mixture of 117 mg (0.3 mmol) of (E)-5-(3,4-dichlorostyryl)-2,3-dihydro-1H-benzo-1,4-diazepine dihydrochloride, 70 mg (0.32 mmol) of 4-nitrobenzyl bromide and 127 mg (1.2 mmol) of sodium carbonate were heated at 70° C. in 3 ml of ethanol for 18 hours. The mixture was diluted with ethyl acetate and water and the organic phase dried over magnesium sulphate, filtered and evaporated to dryness. The residue was chromatographed three times on silica gel using ethyl acetate/petrol (3:1), dichloromethane/methanol (97:3) and ethyl acetate/petrol (9:1) for the elutions. The product was dissolved in a solution of hydrogen chloride in methanol, evaporated to dryness and the residue triturated with diethyl ether to give 12 mg of (E)-5-(3,4-dichlorostyryl)-2,3-dihydro-1-(4-nitrobenzyl)-1H-1,4-benzodiazepine dihydrochloride. MS: m/e 451.9 [M+H]+.

reactant | (E)-5-(3,4-dichlorostyryl)-2,3-dihydro-1H-benzo-1,4-diazepine dihydrochloride | 0.3 mmol, 117 mg | Cl.Cl.ClC=1C=C(C=C\C\2=N/CCNC3=C2C=CC=C3)C=CC1Cl
reactant | 4-nitrobenzyl bromide | 0.32 mmol, 70 mg | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
reactant | sodium carbonate | 1.2 mmol, 127 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 3 ml | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | (E)-5-(3,4-dichlorostyryl)-2,3-dihydro-1-(4-nitrobenzyl)-1H-1,4-benzodiazepine dihydrochloride | 12 mg | Cl.Cl.ClC=1C=C(C=C\C\2=N/CCN(C3=C2C=CC=C3)CC3=CC=C(C=C3)[N+](=O)[O-])C=CC1Cl | InChI=1S/C24H19Cl2N3O2.2ClH/c25-21-11-7-17(15-22(21)26)8-12-23-20-3-1-2-4-24(20)28(14-13-27-23)16-18-5-9-19(10-6-18)29(30)31;;/h1-12,15H,13-14,16H2;2*1H
